US04413005
Preparation of 2,3-dihydro-2,2-dimethylbenzofuran-7-yl N-[N,N-bis(ethoxycarbonylethyl)aminosulfenyl]-N-methylcarbamate
A 11 g quantity (0.05 mole) of 2,3-dihydro-2,2-dimethylbenzofuran-7-yl N-methyl-carbamate was dissolved in 70 ml of methylene chloride, 5.2 g (0.05 mole) of sulfur dichloride was added to the solution with cooling, and 5 g (0.05 mole) of triethylamine was further added dropwise to the solution at -10° to -5° C. The mixture was stirred at 0° C. for one hour and further at room temperature for 2 hours. After cooling to -10° to -5° C., 10.9 g (0.05 mole) of diethyl iminodipropionate was added dropwise to the mixture, and 5 g (0.05 mole) of triethylamine was further added dropwise to the mixture. The resulting mixture was stirred at 0° C. for 2 hours and thereafter allowed to stand overnight at room temperature. With addition of 100 ml of methylene chloride, the reaction mixture was washed with 100 ml of water three times. The methylene chloride layer was dried and then concentrated in a vacuum to give an oily product, which was almost entirely composed of the desired product although containing small amounts of impurities. Yield: 16.9 g (72.2%).

reactant | 2,3-dihydro-2,2-dimethylbenzofuran-7-yl N-methyl-carbamate | 0.05 mole | CNC(OC1=CC=CC=2CC(OC21)(C)C)=O | C12H15NO3
reactant | sulfur dichloride | 0.05 mole, 5.2 g | S(Cl)Cl | Cl2S
reactant | triethylamine | 0.05 mole, 5 g | C(C)N(CC)CC | C6H15N
reactant | diethyl iminodipropionate | 0.05 mole, 10.9 g | N(CCC(=O)OCC)CCC(=O)OCC | C10H19NO4
reactant | triethylamine | 0.05 mole, 5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dihydro-2,2-dimethylbenzofuran-7-yl N-[N,N-bis(ethoxycarbonylethyl)aminosulfenyl]-N-methylcarbamate | C(C)OC(=O)CCN(SN(C(OC1=CC=CC=2CC(OC21)(C)C)=O)C)CCC(=O)OCC | C22H32N2O7S
